US09290451B2
N-(1-hydroxy-2-methylpropan-2-yl)-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-2-carboxamide
The title compound was synthesized in analogy to Example 1, using 7,7-dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid (Example 143 d) and 2-amino-2-methyl-1-propanol (CAN 124-68-5) as starting materials, LC-MS (UV peak area/EIC) 99.7%, 277.1910(M+H)+.

reactant | 7,7-dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid | CC1(CCC=2C=CC(=NC2C1)C(=O)O)C | C12H15NO2
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | N-(1-hydroxy-2-methylpropan-2-yl)-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-2-carboxamide | OCC(C)(C)NC(=O)C1=NC=2CC(CCC2C=C1)(C)C | C16H24N2O2
